Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: ORTHOPAEDICS
 
Allergies: 
Penicillins / Amoxicillin
 
Attending: ___.
 
Chief Complaint:
Back and Left Leg Pain
 
Major Surgical or Invasive Procedure:
PROCEDURES: ___
1. Anterior lumbar interbody fusion, L4-L5, L5-S1.
2. Anterior interbody cage placement L4-L5, L5-S1.

PROCEDURES: ___
1. L5 laminectomy, L4 laminotomy
2. Posterior Spinal Instrumented Fusion L4-S1 

 
History of Present Illness:
This patient presented with persistent back and left-sided leg 
pain.  This goes down in an L5 distribution. It is approximately 
60% back, 40% leg and it goes down the outside of his leg, 
outside of his calf, top of his foot.  He had
an injury approximately ___ years ago while wrestling and he wore
a back brace for two to three months due to spondylolisthesis. 
He has been followed at ___.  He has been good
for approximately five to ___ years, but the past six months 
have
been significantly bothersome for him.  He had a recent child; 
he
is unable to pick the child up.  He has had no injections
recently.  He discontinued physical therapy secondary to pain. 
It is ___ ___nd ___ with activity.  His mom is with him
today.  He has a history of anxiety and chest pain and he had a
workup for cardiac chest pain, which was negative and with a
diagnosis of stress.  He is on Lamictal and Geodon for bipolar
depression.  He is allergic to amoxicillin.  He smokes
approximately half a pack a day, which is a decrease from the 
two
packs.

His films were reviewed, which show a grade ___ 
spondylolisthesis
at L5-S1 with spondylolysis.  An MRI was reviewed from 
___
from ___ MRI, which shows a bilateral L5 spondylolysis and
L5-S1 spondylolisthesis that is grade 2.  There is severe
foraminal stenosis bilaterally.

On physical examination, he is an alert and oriented male. 
Affect is within normal limits.  He has an antalgic gait.  He 
has
___ strength bilaterally with a ___ ___ and abductors.  His
sensation is grossly intact to light touch.  He has a positive
straight leg raise approximately 70 degrees.  No pain with
internal rotation of hips.  Distal pulses intact.  Calves are
soft.  No signs of atrophy.

This is a patient with a grade ___ spondylolisthesis, who by
report was a grade 1 and followed at ___.  He 
has
severe left back as well as left lower extremity radicular
symptoms.  We talked about possible surgical intervention.  This
would either be an anterior-posterior fusion with interbody 
cages
from ___ versus a strut graft through the sacrum and L5 combined
with a posterolateral fusion.  We discussed this at length as
well as risks and benefits using models as MRI.  All questions
were answered.  I would like to obtain a CT scan and see him 
back
in followup.  I gave him a surgical packet and asked him to look
at the animations and come back with any questions.  Given his
x-rays and MRIs as well as clinical symptoms, I do recommend
surgical intervention.

 
Past Medical History:
see HPI
 
Social History:
___
Family History:
see HPI
 
Physical Exam:
see HPI
 
Pertinent Results:
___ 07:09AM BLOOD ALT-24 AST-18 LD(LDH)-148 AlkPhos-81 
TotBili-1.6*
___ 05:00AM BLOOD Glucose-135* UreaN-10 Creat-0.7 Na-137 
K-4.8 Cl-103 HCO3-28 AnGap-11
___ 05:00AM BLOOD WBC-12.2* RBC-3.43* Hgb-10.7* Hct-30.6* 
MCV-89 MCH-31.2 MCHC-35.1* RDW-12.3 Plt ___
 
Brief Hospital Course:
Patient was admitted to the ___ Spine Surgery Service and 
taken to the Operating Room for the above procedure.   The two 
portions of the surgery were staged apart by four days.  Refer 
to the dictated operative notes for further details.  The 
surgeries were without complication and the patient was 
transferred to the PACU in a stable condition each time.  
TEDs/pnemoboots were used for postoperative DVT prophylaxis.  
Intravenous antibiotics were continued for 24hrs postop per 
standard protocol. Initial postop pain was controlled with a 
PCA.  Diet was advanced as tolerated.  The patient was 
transitioned to oral pain medication when tolerating PO diet.  
Foley was removed on POD#1.  Physical therapy was consulted for 
mobilization OOB to ambulate.  Hospital course was otherwise 
unremarkable.  On the day of discharge the patient was afebrile 
with stable vital signs, comfortable on oral pain control and 
tolerating a regular diet. 
 
Medications on Admission:
1. omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: Two (2) 
Capsule, Delayed Release(E.C.) PO DAILY (Daily).  
2. lamotrigine 100 mg Tablet Sig: Three (3) Tablet PO DAILY 
(Daily).  
3. ziprasidone HCl 20 mg Capsule Sig: One (1) Capsule PO QHS 
(once a day (at bedtime)).  

 
Discharge Medications:
1. bisacodyl 10 mg Suppository Sig: One (1) Suppository Rectal 
once a day as needed for constipation for 3 doses.  
2. omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: Two (2) 
Capsule, Delayed Release(E.C.) PO DAILY (Daily).  
3. lamotrigine 100 mg Tablet Sig: Three (3) Tablet PO DAILY 
(Daily).  
4. ziprasidone HCl 20 mg Capsule Sig: One (1) Capsule PO QHS 
(once a day (at bedtime)).  
5. oxycodone-acetaminophen ___ mg Tablet Sig: ___ Tablets PO 
Q4H (every 4 hours) as needed for pain.
Disp:*60 Tablet(s)* Refills:*0*
6. senna 8.6 mg Tablet Sig: One (1) Tablet PO QHS (once a day 
(at bedtime)) as needed for constipation.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
L5-S1 Anterior Spondylolisthesis

 
Discharge Condition:
A+Ox3
Ambulate as tolerated

 
Discharge Instructions:
You have undergone the following operation: Lumbar Decompression 
With Fusion

Immediately after the operation:

-Activity: You should not lift anything greater than 10 lbs for 
2 weeks. You will be more comfortable if you do not sit or stand 
more than ~45 minutes without getting up and walking around.

-Rehabilitation/ Physical Therapy: 
o2-3 times a day you should go for a walk for ___ minutes as 
part of your recovery.  You can walk as much as you can 
tolerate. 
oLimit any kind of lifting.

-Diet: Eat a normal healthy diet. You may have some 
constipation after surgery.  You have been given medication to 
help with this issue.

-Brace: You may have been given a brace. This brace is to be 
worn when you are walking. You may take it off when sitting in a 
chair or while lying in bed.

-Wound Care: Remove the dressing in 2 days.  If the incision is 
draining cover it with a new sterile dressing.  If it is dry 
then you can leave the incision open to the air.  Once the 
incision is completely dry (usually ___ days after the 
operation) you may take a shower. Do not soak the incision in a 
bath or pool.  If the incision starts draining at anytime after 
surgery, do not get the incision wet. Cover it with a sterile 
dressing.  Call the office. 

-You should resume taking your normal home medications.

-You have also been given Additional Medications to control 
your pain.  Please allow 72 hours for refill of narcotic 
prescriptions, so please plan ahead.  You can either have them 
mailed to your home or pick them up at the clinic located on 
___ 2.  We are not allowed to call in or fax narcotic 
prescriptions (oxycontin, oxycodone, percocet) to your pharmacy. 
 In addition, we are only allowed to write for pain medications 
for 90 days from the date of surgery.

 
Followup Instructions:
___